US08748446B2
2 g of 3,4,5-triiodophenylhydrazine, and 0.86 g (10 mmol) of 3-methyl-2-butanone were refluxed in 15 mL of acetic acid for 16 hours. The acetic acid was evaporated, the residue was dissolved in chloroform, washed with aqueous solutions of NaHCO3, followed by Na2S2O3 and water. The organic layer was dried and chloroform was removed under reduced pressure by a rotary evaporator. The residue was column purified (Silica gel 60, 0-2% methanol-chloroform) to give 0.6 g of 4,5,6-triiodo-2,3,3-trimethyl-3H-indole. 1H-NMR (200 MHz, DMSO-d6), δ, ppm: 8.04 (1H, s, arom.), 2.19 (3H, s, 2-CH3), 1.30 (6H, s, C(CH3)2).

reactant | 3,4,5-triiodophenylhydrazine | 2 g | IC=1C=C(C=C(C1I)I)NN | C6H5I3N2
reactant | 3-methyl-2-butanone | 10 mmol, 0.86 g | CC(C(C)=O)C | C5H10O
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 4,5,6-triiodo-2,3,3-trimethyl-3H-indole | 0.6 g | IC1=C2C(C(=NC2=CC(=C1I)I)C)(C)C | C11H10I3N
